US04978783
Preparation of 2,6-dimethoxyhydroquinone-3-mercaptopropionic acid (DMQ-MP)
2,6-Dimethoxybenzoquinone (2.0 g) was dissolved in ethanol (95%, 22 ml), water (6 ml), THF (15 ml) and DIEA (1.55 g). 3-mercaptopropionic acid (0.64 g) in ethanol (10 ml) was added in a dropwise fashion within 20 minutes, with stirring and cooling in an ice bath. The reaction was then allowed to proceed at room temperature. After 1.5 hours the reaction medium changed to a deep reddish color. The mixture was filtered and the filtrate evaporated in vacuo to give a solid mixture. This solid mixture was eluted via a silical gel chromatographic column (silica gel 60, [230-400 mesh], Merck) by using CHCl3 /MeOH/AcOH (97:2:1) as the mobile phase. The purified product DMQ-MP was crystallized from ether in a 26.5% yield (0.53 g). Melting point: 113°-115° C. Anal. calcd. for C11H14SO6, C 48.16, H 5.16; Found C 48.16, H 5.17. FABMS (fast atom bombardment mass spectrometry) [M-H]- (Xe beam) 273.19.

reactant | 2,6-Dimethoxybenzoquinone | 2.0 g | COC=1C(C(=CC(C1)=O)OC)=O | C8H8O4
reactant | water | 6 ml | O | H2O
reactant | DIEA | 1.55 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-mercaptopropionic acid | 0.64 g | SCCC(=O)O | C3H6O2S
solvent | ethanol | 22 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2,6-dimethoxyhydroquinone 3-mercaptopropionic acid | 26.5% yield | COC1=C(O)C(=CC(=C1)O)OC.SCCC(=O)O | InChI=1S/C8H10O4.C3H6O2S/c1-11-6-3-5(9)4-7(12-2)8(6)10;4-3(5)1-2-6/h3-4,9-10H,1-2H3;6H,1-2H2,(H,4,5)
